US06165944
At room temperature and under protective gas, 2.0 g (6.7 mmol) of 2,4-dichloro-3-(5-methylcarbonyl-1H-pyrazol-3-yl)benzoic acid in 50 ml of tetrahydrofuran were added dropwise to 0.40 g (16.7 mmol) of sodium hydride. The mixture was stirred for 1 hour, 4.8 g (33.4 mmol) of methyl iodide were added, the mixture was stirred for 10 hours and another 4.8 g (33.4 mmol) of methyl iodide were added, the mixture was stirred at 50° C. for 5 hours and 0.16 g (6.7 mmol) of sodium hydride and another 4.8 g (33.4 mmol) of methyl iodide were then added and the mixture was heated at 50° C. for 1 hour. After cooling, the reaction mixture was stirred into 100 ml of a sodium chloride solution and a pH of 1 was adjusted using hydrochloric acid. The product was then extracted with methyl tert-butyl ether and the combined organic phases were washed with water, dried and concentrated. The residue was then chromatographed over silica gel (eluent: toluene/tetrahydrofuran/acetic acid=8/1/1). 1.25 g (60% of theory) of 2,4-dichloro-3-(1-methyl-3-methylcarbonyl-1H-pyrazol-5-yl)benzoic acid were obtained.

reactant | 2,4-dichloro-3-(5-methylcarbonyl-1H-pyrazol-3-yl)benzoic acid | 6.7 mmol, 2.0 g | ClC1=C(C(=O)O)C=CC(=C1C1=NNC(=C1)C(=O)C)Cl | C12H8Cl2N2O3
reactant | sodium hydride | 16.7 mmol, 0.40 g | [H-].[Na+]
reactant | methyl iodide | 33.4 mmol, 4.8 g | CI | CH3I
reactant | methyl iodide | 33.4 mmol, 4.8 g | CI | CH3I
reactant | sodium hydride | 6.7 mmol, 0.16 g | [H-].[Na+]
reactant | methyl iodide | 33.4 mmol, 4.8 g | CI | CH3I
reactant | sodium chloride | 100 ml | [Cl-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2,4-dichloro-3-(1-methyl-3-methylcarbonyl-1H-pyrazol-5-yl)benzoic acid | 1.25 g, 60% | ClC1=C(C(=O)O)C=CC(=C1C1=CC(=NN1C)C(=O)C)Cl | C13H10Cl2N2O3
